US08877968B2
To 2.35 g (5.64 mmol) of ethyl 1-[(R)-2-amino-3-(4-methoxyphenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate dissolved in 25 mL of DCM immersed in a bath of cold water are added 1.25 g (6.21 mmol) of 4-nitrophenyl chloroformate. After warming to room temperature, the reaction medium is stirred for 1 hour. The reaction is stopped by adding aqueous NH4OH solution and the organic compounds are extracted with DCM. The organic phase is then washed with water and then dried over MgSO4, filtered and concentrated. The crude product obtained is dissolved in 25 mL of DMF at 80° C., and 0.70 g (6.3 mmol) of histamine is then added. After 15 minutes, the reaction is stopped by adding aqueous 1N sodium hydroxide solution and the organic compounds are extracted with DCM. The organic phase is dried over MgSO4, filtered and concentrated. The crude product obtained is chromatographed on silica gel (eluent: 86/14 DCM/MeOH). 1.48 g of ethyl 4-cyclohexyl-1-[(R)-2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionyl]piperidine-4-carboxylate in the form of a white powder are obtained in a yield of 47%.

reactant | ethyl 1-[(R)-2-amino-3-(4-methoxyphenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate | 5.64 mmol, 2.35 g | N[C@@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)CC1=CC=C(C=C1)OC | C24H36N2O4
reactant | 4-nitrophenyl chloroformate | 6.21 mmol, 1.25 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | NH4OH | [NH4+].[OH-]
reactant | histamine | 6.3 mmol, 0.70 g | NCCC1=CNC=N1 | C5H9N3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 4-cyclohexyl-1-[(R)-2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionyl]piperidine-4-carboxylate | 1.48 g, yield of 47% | C1(CCCCC1)C1(CCN(CC1)C([C@@H](CC1=CC=C(C=C1)OC)NC(=O)NCCC=1N=CNC1)=O)C(=O)OCC | C30H43N5O5
